US07205292B2
Step C. 4-(Cyclopropylmethyl)-2-phenyl-1,4-diazepan-5-one
Sodium hydroxide (1M; 6.53 mL, 6.53 mmol) was added to a solution of ethyl N-{2-[(cyclopropylmethyl)amino]-1-phenylethyl}-beta-alaninate (1.81 g, 6.22 mmol) in methanol (10 mL). After 1 h, the mixture was concentrated and azeotroped with toluene (3×) to give the crude acid. Diphenylphosphoryl azide (2.68 ml, 12.43 mmol) was added to a solution of the crude acid (1.77 g, 6.22 mmol) and 4-methylmorpholine (1.37 mL, 12.4 mmol) in N,N-dimethylformamide (124 mL). After 18 h, the reaction was concentrated and diluted with water. The mixture was extracted with dichloromethane (3×), and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel chromatography [100% dichloromethane→90% dichloromethane/10% (10% ammonium hydroxide/methanol)] gave the title compound (1.38 g). MS 245 (M+1). 1H NMR (500 MHz, CDCl3) δ 7.47–7.30 (m, 5H), 3.89–3.88 (m, 2H), 3.65 (dd, J=13.9, 6.6 Hz, 1H), 3.31–3.26 (m, 1H), 3.24–3.21 (m, 1H), 3.02–2.93 (m, 3H), 2.70–2.65 (m, 1H), 1.02–0.97 (m, 1H), 0.58–0.49 (m, 2H), 0.28–0.21 (m, 2H).

reactant | Sodium hydroxide | 6.53 mmol, 1M, 6.53 mL | [OH-].[Na+]
reactant | ethyl N-{2-[(cyclopropylmethyl)amino]-1-phenylethyl}-beta-alaninate | 6.22 mmol, 1.81 g | C1(CC1)CNCC(C1=CC=CC=C1)NCCC(=O)OCC | C17H26N2O2
reactant | Diphenylphosphoryl azide | 12.43 mmol, 2.68 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-methylmorpholine | 12.4 mmol, 1.37 mL | CN1CCOCC1 | C5H11NO
solvent | methanol | 10 mL | CO | CH4O
solvent | N,N-dimethylformamide | 124 mL | CN(C=O)C | C3H7NO
product | 4-(Cyclopropylmethyl)-2-phenyl-1,4-diazepan-5-one | 1.38 g | C1(CC1)CN1CC(NCCC1=O)C1=CC=CC=C1 | C15H20N2O
